US04329347
4-Methyl-6-[4-(2-pyridyl-mercapto)-butoxy]-carbostyril
Prepared analogous to Example 122 from 4-methyl-6-(4-bromo-butoxy)-carbostyril (m.p. 217°-219° C.) and 2-mercapto-pyridine.

reactant | 4-methyl-6-(4-bromo-butoxy)-carbostyril | CC1=CC(NC2=CC=C(C=C12)OCCCCBr)=O | C14H16BrNO2
reactant | 2-mercapto-pyridine | SC1=NC=CC=C1 | C5H5NS
product | 4-Methyl-6-[4-(2-pyridyl-mercapto)-butoxy]-carbostyril | CC1=CC(NC2=CC=C(C=C12)OCCCCSC1=NC=CC=C1)=O | C19H20N2O2S
